US07211581B2
1.3 (1S)-5-(1-Methyl-6-oxo-1,6-dihydro-[4,4′]bipyrimidinyl-2-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester.
A mixture containing 1.95 ml (14 mmol) of triethylamine, 2.45 g (11 mmol) of 2-chloro-1-methyl-1H-[4,4′]bipyrimidinyl-6-one, 2.58 g (13 mmol) of (1S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester in 100 ml of anhydrous tetrahydrofuran was stirred at room temperature for 2 h. Water was added to the cooled mixture and the resulting solution extracted with ethyl acetate. The combined extracts were washed with saturated aqueous ammonium chloride and evaporated. The crude product was purified by chromatography on silica gel eluting with a mixture of dichloromethane/methanol in the proportions 100/0 to 98/2 to afford 4.2 g of pure product as a white solid.

reactant | triethylamine | 14 mmol, 1.95 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 11 mmol, 2.45 g | ClC=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C9H7ClN4O
reactant | (1S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 13 mmol, 2.58 g | C(C)(C)(C)OC(=O)N1[C@@H]2CNC(C1)C2 | C10H18N2O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (1S)-5-(1-Methyl-6-oxo-1,6-dihydro-[4,4′]bipyrimidinyl-2-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 4.2 g | C(C)(C)(C)OC(=O)N1[C@@H]2CN(C(C1)C2)C=2N(C(C=C(N2)C2=NC=NC=C2)=O)C | C19H24N6O3
